US03993658
Following the procedure described in Example 9, part B above but using equivalent amounts of 5,6-dichloro-1,3-diiminoisoindoline and 2-(5-phenylpentylamino)-4-imino-2-thiazoline hydrochloride in place of the 1,3-diiminoisoindoline and 2-piperidino-4-imino-2-thiazoline hydrochloride respectively, there is obtained as the product 1-imino-5,6-dichloro-3-[2-(5-phenylpentylamino)-4-imino-2-thiazolin-5-ylidene]isoindoline hydrochloride.

reactant | 5,6-dichloro-1,3-diiminoisoindoline | ClC=1C=C2C(NC(C2=CC1Cl)=N)=N | C8H5Cl2N3
reactant | 2-(5-phenylpentylamino)-4-imino-2-thiazoline hydrochloride | Cl.C1(=CC=CC=C1)CCCCCNC=1SCC(N1)=N
reactant | 2-piperidino-4-imino-2-thiazoline hydrochloride | Cl.N1(CCCCC1)C=1SCC(N1)=N
product | 1-imino-5,6-dichloro-3-[2-(5-phenylpentylamino)-4-imino-2-thiazolin-5-ylidene]isoindoline hydrochloride | Cl.N=C1NC(C2=CC(=C(C=C12)Cl)Cl)=C1C(N=C(S1)NCCCCCC1=CC=CC=C1)=N | InChI=1S/C22H21Cl2N5S.ClH/c23-16-11-14-15(12-17(16)24)20(25)28-18(14)19-21(26)29-22(30-19)27-10-6-2-5-9-13-7-3-1-4-8-13;/h1,3-4,7-8,11-12H,2,5-6,9-10H2,(H2,25,28)(H2,26,27,29);1H
